US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting 1-bromo-2-fluoroethane and making non-critical variations provided the title compound as a light yellow amorphous solid. IR (diffuse reflectance) 2972, 2934, 1564, 1551, 1498, 1468, 1392, 1377, 1206, 1182, 1123, 1102, 1046, 826, 750 cm−1; OAMS supporting ions at: ESI+ 473.9; MS (EI) m/z 473 (M+); [α]25D=−87 (c 0.77, methylene chloride); Anal. Calcd for C25H26Cl2FN3O: C, 63.30; H, 5.52; N, 8.86. Found: C, 63.10; H, 5.60; N, 8.79.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | 1-bromo-2-fluoroethane | BrCCF | C2H4BrF
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-fluoroethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCCF)CC | C25H26Cl2FN3O
